US05709911
First, 12.4 g of 1-bromo-12-benzyloxydodecane, 6.3 g of sodium iodide, and 125 ml of acetone were placed in a 200 ml flask whose content was replaced with argon. Then, the mixture was stirred under reflux for 5 hours. An insoluble matter was filtered away and a filtrate was concentrated. Thereafter, ether was introduced into the residue. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: toluene/hexane=1/1) to obtain 14.7 g of 1-iodo-12-benzyloxydodecane (Y: 100%). The compound thus obtained had a purity of 96.1% by GC.

reactant | 1-bromo-12-benzyloxydodecane | 12.4 g | BrCCCCCCCCCCCCOCC1=CC=CC=C1 | C19H31BrO
reactant | sodium iodide | 6.3 g | [I-].[Na+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | 1-iodo-12-benzyloxydodecane | 14.7 g, 100% | ICCCCCCCCCCCCOCC1=CC=CC=C1 | C19H31IO
